US07872031B2
Crude N-tert-butyl-3-(1-(2,3-difluorophenyl)-1H-tetrazol-5-yl)pyridin-2-amine was dissolved in MeOH (10 mL), treated with 6N HCl (20 mL), and heated to reflux for 2 hours. The mixture was subsequently cooled to RT and neutralized with 6N NaOH. The resulting precipitate was collected, washed with water, and dried in vacuo to give 3-(1-(2,3-difluorophenyl)-1H-tetrazol-5-yl)pyridin-2-amine as white solid. Using the same procedure, 3-(1-(2,3-dichlorophenyl)-H-tetrazol-5-yl)pyridin-2-amine and 3-(1-(3-chloro-2-fluorophenyl)-1H-tetrazol-5-yl)pyridin-2-amine can be produced from N-tert-butyl-3-(1-(2,3-dichlorophenyl)-1H-tetrazol-5-yl)pyridin-2-amine and N-tert-butyl-3-(1-(3-chloro-2-fluorophenyl)-1H-tetrazol-5-yl)pyridin-2-amine, respectively.

reactant | N-tert-butyl-3-(1-(2,3-difluorophenyl)-1H-tetrazol-5-yl)pyridin-2-amine | C(C)(C)(C)NC1=NC=CC=C1C1=NN=NN1C1=C(C(=CC=C1)F)F | C16H16F2N6
reactant | HCl | 6N, 20 mL | Cl | ClH
reactant | NaOH | 6N | [OH-].[Na+]
solvent | MeOH | 10 mL | CO | CH4O
product | 3-(1-(2,3-difluorophenyl)-1H-tetrazol-5-yl)pyridin-2-amine | FC1=C(C=CC=C1F)N1N=NN=C1C=1C(=NC=CC1)N | C12H8F2N6
